### PR TITLE
Add Erdős Problem 440 (counting small consecutive lcms), link the formal proof

### LINKED ISSUE #732: Erdős Problem 440
### What is the conjecture
    
https://www.erdosproblems.com/440

  Let $A=\\{a_1<a_2<\cdots\\}\subseteq \mathbb{N}$ be infinite and let $A(x)$ count the number of indices for which $\mathrm{lcm}(a_i,a_{i+1})\leq x$. Is it true that $A(x) \ll x^{1/2}$? How large can
$$\liminf \frac{A(x)}{x^{1/2}}$$
be?
  

Status: solved

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #732.

### What changed
Adds `FormalConjectures/ErdosProblems/440.lean` with `count a x = #{i | lcm(aᵢ, aᵢ₊₁) ≤ x}` for a strictly increasing sequence `a` of positive integers:
- `erdos_440.parts.i` (`answer(True)`): `count a x = O(√x)`.
- `erdos_440.parts.ii`: `IsGreatest {liminf count a x / √x} 1` (Erdős–Szemerédi; `A = ℕ` attains it).
- `variants.erdos_szemeredi`: `IsGreatest {limsup count a x / √x} c` with `c = ∑_{n ≥ 1} 1/(√n (n+1))` (the sharp constant of [ErSz80], rediscovered by van Doorn).

All three are linked to plby/lean-proofs `Erdos440.erdos_440` (Codex and GPT-5.6 Sol; 5 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos440.erdos_440` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby counts over `Finset.range x`; the bridge shows the index set is automatically `< x`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge440

open Erdos440Plby in
lemma count_eq (a : ℕ → ℕ) (ha : StrictMono a) (hpos : ∀ i, 0 < a i) (x : ℕ) :
    Erdos440.count a x = IncreasingSequence.count ⟨a, hpos, ha⟩ x := by
  let A : IncreasingSequence := ⟨a, hpos, ha⟩
  have hset : {i | Nat.lcm (a i) (a (i + 1)) ≤ x} = ↑(IncreasingSequence.goodEdges A x) := by
    ext i
    constructor
    · intro h
      have h' : Nat.lcm (a i) (a (i + 1)) ≤ x := h
      have h1 : a (i + 1) ≤ Nat.lcm (a i) (a (i + 1)) :=
        Nat.le_of_dvd (Nat.lcm_pos (hpos i) (hpos (i + 1))) (Nat.dvd_lcm_right _ _)
      have h2 := A.index_succ_le (i + 1)
      change i + 1 + 1 ≤ a (i + 1) at h2
      exact Finset.mem_coe.2 (Finset.mem_filter.2 ⟨Finset.mem_range.2 (by omega), h'⟩)
    · intro h
      exact (Finset.mem_filter.1 (Finset.mem_coe.1 h)).2
  rw [Erdos440.count, hset, Set.ncard_coe_finset]
  rfl

open Erdos440Plby in
lemma ratio_eq (a : ℕ → ℕ) (ha : StrictMono a) (hpos : ∀ i, 0 < a i) :
    (fun x : ℕ ↦ (Erdos440.count a x : ℝ) / √x) = IncreasingSequence.ratio ⟨a, hpos, ha⟩ := by
  funext x
  rw [IncreasingSequence.ratio, count_eq a ha hpos]

theorem parts_i : type_of% Erdos440.erdos_440.parts.i := by
  show True ↔ _
  simp only [true_iff]
  intro a ha hpos
  have := Erdos440Plby.erdos_440.1 ⟨a, hpos, ha⟩
  simpa only [count_eq a ha hpos] using this

theorem parts_ii : type_of% Erdos440.erdos_440.parts.ii := by
  show IsGreatest _ 1
  obtain ⟨-, -, -, hle, A, hA⟩ := Erdos440Plby.erdos_440
  refine ⟨⟨A.value, A.strictMono, A.positive, ?_⟩, ?_⟩
  · rw [ratio_eq]; exact hA.symm
  · rintro l ⟨a, ha, hpos, rfl⟩
    rw [ratio_eq a ha hpos]
    exact hle _

lemma const_eq : Erdos440.erdosSzemerediConstant = Erdos440Plby.sharpConstant := by
  rw [Erdos440Plby.sharpConstant, ← Erdos440SharpConstruction.analyticSharpConstant_eq_universalSharpConstant]
  rfl

theorem erdos_szemeredi : type_of% Erdos440.erdos_440.variants.erdos_szemeredi := by
  obtain ⟨-, hle, ⟨A, hA⟩, -, -⟩ := Erdos440Plby.erdos_440
  rw [const_eq]
  refine ⟨⟨A.value, A.strictMono, A.positive, ?_⟩, ?_⟩
  · rw [ratio_eq]; exact hA.symm
  · rintro l ⟨a, ha, hpos, rfl⟩
    rw [ratio_eq a ha hpos]
    exact hle _

#print axioms Erdos440Plby.erdos_440
#print axioms parts_i
#print axioms parts_ii
#print axioms erdos_szemeredi

end Bridge440
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«440»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/440.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/440.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
